### PR TITLE
feat: `direction` of `AffineSubspace.comap`

### PR DESCRIPTION
**Pull request by gasparattila**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Basic.lean [hunk 1]
```diff
@@ -764,6 +756,26 @@ theorem comap_comap (s : AffineSubspace k P₃) (f : P₁ →ᵃ[k] P₂) (g : P
...
+
+theorem direction_comap {f : P₁ →ᵃ[k] P₂} {s : AffineSubspace k P₂} (h : s.comap f ≠ ⊥) :
+    (s.comap f).direction = s.direction.comap f.linear := by
+  refine le_antisymm (direction_comap_le f s) ?_
+  intro v hv
+  obtain ⟨p, hp⟩ := (nonempty_iff_ne_bot _).mpr h
+  rw [← vadd_vsub v p]
+  refine vsub_mem_direction ?_ hp
+  rw [mem_comap, f.map_vadd]
+  exact vadd_mem_of_mem_direction hv hp
```
Comment (wwylele) [inline Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Basic.lean]:
```suggestion
  simpa using vadd_mem_of_mem_direction hv hp
```

**Review by wwylele — APPROVED** [review]
